US06180627B2
Benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate
A suspension of benzyl-2-[(1-cyanoethyl)amino]acetate hydrochloride (preparation 16) (17.8 g, 69.88 mmol) in toluene (120 ml) was treated cautiously with oxalyl chloride (24.38 ml). Once effervescence had ceased the reaction was heated at 100° C. (24 hr). The reaction was cooled, solvent evaporated to dryness and the resultant crude product purified by chromatography (SiO2, gradient elution with 70:30 pentane:ethyl acetate; 50:50 pentane:ethyl acetate; 30:70 pentane:ethyl acetate; 100% ethyl acetate). Chromatography again, (SiO2, eluting with 100% CH2Cl2) gave the desired product as an off-white solid (9.40 g, 41%). 1H NMR (CD3OD) δ 2.35 (s, 3H), 4.90 (s, 2H), 5.25 (s, 2H), 7.40 (m, 5H).

reactant | benzyl-2-[(1-cyanoethyl)amino]acetate hydrochloride | 69.88 mmol, 17.8 g | Cl.C(C1=CC=CC=C1)OC(CNC(C)C#N)=O
reactant | oxalyl chloride | 24.38 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl 2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 9.40 g, 41% | ClC1=C(N(C(C(=N1)Cl)=O)CC(=O)OCC1=CC=CC=C1)C | C14H12Cl2N2O3
